US07910595B2
4,4,5,7-tetramethylchroman-2-one
3,5-Dimethylphenol (5.00 g, 0.0409 mol) and methyl 3,3-dimethylacrylate (5.14 g, 0.045 mol) were added to methanesulfonic acid (5 mL) at room temperature followed by heating at 70° for 17 hours. The reaction was cooled, diluted with water (750 mL), extracted with ethyl acetate (2×200 mL) and the combined organic extracts were washed with saturated aqueous sodium hydrogencarbonate (2×100 mL) and brine (50 mL). The organic phase was dried over magnesium sulfate, filtered, and concentrated by rotary evaporation. Purification by silica gel flash chromatography eluting with methylene chloride afforded the title compound as a beige solid (7.73 g, 0.0378 mol, 92%). 1H NMR (300 MHz, CHLOROFORM-D) δ ppm 1.43 (s, 6 H) 2.27 (s, 3 H) 2.46 (s, 3 H) 2.59 (s, 2 H) 6.74 (s, 2 H). MS (DCI) m/z 205 (M+H)+, 222 (M+NH4)+.

reactant | 3,5-Dimethylphenol | 0.0409 mol, 5.00 g | CC=1C=C(C=C(C1)C)O | C8H10O
reactant | methyl 3,3-dimethylacrylate | 0.045 mol, 5.14 g | CC(=CC(=O)OC)C | C6H10O2
reactant | methanesulfonic acid | 5 mL | CS(=O)(=O)O | CH4O3S
solvent | water | 750 mL | O | H2O
product | 4,4,5,7-tetramethylchroman-2-one | 0.0378 mol, 7.73 g, 92% | CC1(CC(OC2=CC(=CC(=C12)C)C)=O)C | C13H16O2
